US06855710B2
c) 4-(3-dimethylaminoprop-1-ynyl)-nitrobenzene
190 ml (4.2 mmol) of dimethylamine dissolved in 2.5 ml of dichloromethane are added dropwise at 0° C. to a solution of 0.7 g (2.1 mmol) of 4-[3-(p-tolylsulphonyloxy)-prop-1-ynyl]-nitrobenzene in 10 ml of dichloromethane. The cooling is stopped and the mixture is stirred for 18 hours at ambient temperature. Then the reaction solution is washed with water and freed from solvent. The residue is chromatographed on silica gel (dichloromethane/methanol=10:1). The product is obtained as an oil.

reactant | dimethylamine | 4.2 mmol, 190 ml | CNC | C2H7N
reactant | 4-[3-(p-tolylsulphonyloxy)-prop-1-ynyl]-nitrobenzene | 2.1 mmol, 0.7 g | C1(=CC=C(C=C1)S(=O)(=O)OCC#CC1=CC=C(C=C1)[N+](=O)[O-])C | C16H13NO5S
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(3-dimethylaminoprop-1-ynyl)-nitrobenzene | CN(CC#CC1=CC=C(C=C1)[N+](=O)[O-])C | C11H12N2O2
